Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization

 
History of Present Illness:
This is a ___ y/o M with a history of obesity, HTN, NIDDM, 
Hypercholesterolemia, DVT s/p IVC filter placement and PE on 
coumadin, who presents with worsening SOB over the past 3 weeks. 
He was seen by his PCP ___ on ___ for SOB, and per 
patient, diagnosed with "bronchitis." He was given Advair, which 
did not relieve his symptoms. Since then he has become gradually 
more short of breath, especially with exertion, such that he has 
to rest after walking only a few feet. At rest, he denies SOB. 
He sleeps on 2 pillows at baseline but notes that he is now 
completely unable to lie flat. He also notes a dry cough that 
developed a few days ago and a sensation that there is 
"something" in his chest that he just can't cough up. He denies 
fevers, chest pain, left arm or jaw pain, sweating, leg pain or 
swelling, and weight gain. (Baseline weight is 338lbs, was 
335lbs at ___'s office today). He also denies recent travel, 
sick contacts, smoking, and h/o asthma. He notes that this 
dyspnea is somewhat similar but less severe than when he had a 
PE in ___ at that time he was completely unable to walk. He 
re-presented to ___'s office today and was found to be 
tachypneic w/ RR28, O2Sat 945, HR 108, BP 130/100. Of note, he 
decreased his coumadin dose last week as his INR was 3.7 on 
___. 

In the ED, vitals were T 97.6, P ___, BP 122-134/70-93, RR 
___, O2Sat 98%RA. He was given levofloxacin 750mg IV x1 and 
nebs x1. He had a CXR and chest CT to rule out PE, but was 
unable to complete the scan because he could not lie flat. Due 
to concern for PE, he was bolused with heparin and then started 
on heparin gtt. 

On exam, he again denies CP and notes that dyspnea is improved 
with rest, nebs, and supplemental 02. 

 
Past Medical History:
*HTN
*NIDDM - per pt, recent HbA1c = 7.0
*Hyperlipidemia
*Gout
*Nephrolithiasis
*Cholecystitis s/p lap chole
*Bilateral PEs ___, on coumadin, s/p IVC filter placement 
___
*Shingles
 
Social History:
___
Family History:
Father died age ___ of MI. ___ siblings have had DVT. 
 
Physical Exam:
T 97.6  HR 109  BP 142/98  O2Sat 95%on 4L NC
GEN: Obese gentleman appearing stated age, sitting upright in 
bed, comfortable and smiling. No distress. 
HEENT: Normocephalic. Sclerae anicteric, Conjunctivae pink. 
PERRL. MMM. Clear oropharynx. 
NECK: Supple, Unable to visualize JVP. No LAD. 
CV: RRR. Normal S1/S2. No murmurs/rubs/gallops. 
LUNGS: +Bibasilar crackles. No wheezes/rhonchi.
ABD: Obese, NT, +BS.
EXT: WWP. 2+ pitting edema bilateral ___ to above ankles. 
Neuro: Alert and oriented. No focal deficits. 
 
Pertinent Results:
___ 08:11PM   GLUCOSE-200* UREA N-11 CREAT-0.9 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-21* ANION GAP-19
___ 08:11PM   CK(CPK)-1016*
___ 08:11PM   CK-MB-14* MB INDX-1.4 cTropnT-0.02*
___ 08:11PM   CALCIUM-9.3 PHOSPHATE-3.3 MAGNESIUM-1.9
___ 08:11PM   ___ PTT-90.1* ___
___ 08:10PM URINE  HOURS-RANDOM
___ 08:10PM URINE  GR HOLD-HOLD
___ 12:49PM   GLUCOSE-166* UREA N-11 CREAT-1.0 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-27 ANION GAP-13
___ 12:49PM   estGFR-Using this
___ 12:49PM   CK(CPK)-1191*
___ 12:49PM   cTropnT-0.04*
___ 12:49PM   CK-MB-16* MB INDX-1.3 proBNP-1011*
___ 12:49PM   ALBUMIN-4.3 CALCIUM-9.6 PHOSPHATE-3.5 
MAGNESIUM-2.0
___ 12:49PM   WBC-8.5# RBC-5.26 HGB-15.9 HCT-47.5 MCV-90 
MCH-30.1 MCHC-33.4 RDW-14.8
___ 12:49PM   NEUTS-58.2 ___ MONOS-6.0 EOS-2.3 
BASOS-0.5
___ 12:49PM   PLT COUNT-280
___ 12:49PM   ___ PTT-24.5 ___
 
Brief Hospital Course:
#Dyspnea - Differential diagnosis included PNA, PE, MI and CHF 
(likely systolic), with highest suspicion for volume overload in 
setting of CHF given exam, history, imaging, and elevated BNP. 
He does have a significant DVT/PE history, but because he has an 
IVC filter and INR was supra-therapeutic when his symptoms 
began, suspicion for PE was low. Admission Chest CT showed 
bilateral effusions and bilateral LL opacities, which may 
represent infection, edema, or atelectasis. He was unable to 
complete the IV contrast portion of the CT scan and thus PE 
could not fully be ruled out. He was started on heparin drip and 
kept on this overnight until INR >2.0. Once INR became 
therapeutic, heparin gtt was d/c'd and patient was transitioned 
to home coumadin dose PO. Admission labs showed elevated CKMB 
and mildly elevated troponin. He was given NTG, morphine, 
metoprolol x1, though suspicion for ACS was low. He was 
maintained on ASA 325mg, simvastatin 20mg, and home ___. Cardiac 
enzymes were cycled and trended down. EKG was not consistent 
with acute MI. Given than he had been afebrile and with minimal 
cough, he did not receive antibiotics. Urine legionella Ag was 
negative. Attempted to obtain sputum cultures but patient could 
not generate sputum to send. The patient was given lasix 20mg IV 
x2 and met goal UOP of ___ negative, with improvement in 
symptomatic dyspnea and oxygen requirement. Patient was also 
given albuterol and ipratropium nebs prn. Echo was ordered but 
not completed before discharge to floor.  On floor cont'd 
diuresis with goal of ___ L/day.  TTE showed global 
dysfunction, dilated CM.  Cardiology following t/o 
hospitalization. W/u for global CM performed with no 
idenitifiable cause obtained.  Underwent cardiac cath which 
showed minimal disease.  Cont'd on ___, held CCB, startedon 
coreg, lasix and aldactone and cont'd on as outpt.  Will 
follow-up with Dr. ___ Dr. ___ the week for CM. 
   
.
#.NIDDM: Home hypoglycemic agents were held and patient was 
maintained on ISS.  Restarted on home meds on d/c. 
.
#.HTN: Patient given home ___ but holding home CCB. Started on 
Coreg with success in HTN control.
.
#.Gout: Asymptomatic. Allopurinol continued.
.
# PE PPx: On coumadin on admission.  INR subtherapeutic on 
arrival.  Held for procedure on heparin gtt, restarted on 
coumadin afterwards bridging with heparin gtt until therapuetic 
INR acheieved.
 
Medications on Admission:
Glyburide 5mg 2tab daily
Byetta 10mg daily
Januvia 100mg daily
Allopurinol ___ daily
ASA 325mg daily
Diovan 160 2tab daily
Norvasc 10mg daily
Simvastatin 20mg daily
Coumadin - 7.5mg 5days/week, 5mg 2days/week
Gabapentin prn (post-herpetic neuralgia)
 
Discharge Medications:
1. Warfarin 7.5 mg Tablet Sig: One (1) Tablet PO 5X/WEEK 
(___).  
2. Warfarin 5 mg Tablet Sig: One (1) Tablet PO 2X/WEEK (___).  

3. Valsartan 160 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
4. Carvedilol 12.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*2*
5. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
6. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.
Disp:*60 Tablet(s)* Refills:*0*
10. Docusate Sodium 50 mg/5 mL Liquid Sig: Ten (10) ml PO BID (2 
times a day).
Disp:*600 ml* Refills:*2*
11. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
12. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*2*
13. Albuterol 90 mcg/Actuation Aerosol Sig: ___ puffs Inhalation 
every six (6) hours as needed for shortness of breath or 
wheezing.
Disp:*1 inhaler* Refills:*2*
14. Ipratropium Bromide 17 mcg/Actuation Aerosol Sig: ___ puffs 
Inhalation every six (6) hours as needed for shortness of breath 
or wheezing.
Disp:*1 inhaler* Refills:*2*
15. Januvia 100 mg Tablet Sig: One (1) Tablet PO once a day.  
16. Byetta 10 mcg/0.04 mL Pen Injector Sig: One (1) inj 
subcutaneous Subcutaneous once a day.  
17. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
18. Aldactone 25 mg Tablet Sig: ___ Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Shortness of breath, secondary to systolic Congestive Heart 
Failure
 
Discharge Condition:
Improved, INR therapeutic, hemodynamically stable

 
Discharge Instructions:
You were evaluated in the hospital for your shortness of breath 
and recent changes in your heart function. You were found to 
have a dilated heart that has reduced efficiency in its ability 
to pump blood as well as it did several months ago.  It remains 
unclear why this occurred, but cardiology was able to perform a 
cardiac catheterization that showed you only a small amount of 
disease in the arteries that supply blood to your heart.

Because we stopped your coumadin for this procedure, we had to 
keep you in the hospital to restart your coumadin and wait for 
the blood thinning effects of the coumadin to work before your 
discharge.
Please continue your home medications with the following 
changes:
Start: Coreg, Albuterol, Ipratropium, Valsartan, Lasix, 
Aldactone
Stop: Amlodopine.

Please call your doctor or return to the ER with:
* Worsening of your shortness of breath
* Chest pain or pressure
* Fevers, chills, nausea or vomiting
* With any new concerns
 
Followup Instructions:
___